US07473694B2
Synthesis of tert-butyl (S)-3-[7-{tert-butoxycarbonyl-[4-(2-methoxyethoxy)phenyl]amino}-6-(2-methanesulfonyloxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate
To a methylene chloride (5 mL) solution containing tert-butyl (S)-3-[7-{tert-butoxycarbonyl-[4-(2-methoxyethoxy)phenyl]amino}-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate (216 mg, 0.345 mmol), triethylamine (480 μL, 3.45 mmol) and methanesulfonyl chloride (80 μL, 1.04 mmol) were added, and this mixture was stirred at room temperature for 30 min. After the reaction, aqueous ammonium chloride was added to the reaction solution, and the mixture was extracted with methylene chloride. The combined methylene chloride layer was dried over sodium sulfate. After the sodium sulfate was filtered off, the filtrate was concentrated to obtain the title compound (258 mg).

reactant | tert-butyl (S)-3-[7-{tert-butoxycarbonyl-[4-(2-methoxyethoxy)phenyl]amino}-6-(2-hydroxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | 0.345 mmol, 216 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCO)C2=CC=C(C=C2)OCCOC | C32H46N6O7
reactant | triethylamine | 3.45 mmol, 480 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.04 mmol, 80 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (S)-3-[7-{tert-butoxycarbonyl-[4-(2-methoxyethoxy)phenyl]amino}-6-(2-methanesulfonyloxyethyl)pyrazolo[1,5-a]pyrimidin-5-ylamino]piperidine-1-carboxylate | 258 mg | C(C)(C)(C)OC(=O)N(C1=C(C(=NC=2N1N=CC2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)CCOS(=O)(=O)C)C2=CC=C(C=C2)OCCOC | C33H48N6O9S
